US07371749B2
2-Dimethylaminomethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester
Using 2-chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride and dimethylamine (33% solution in ethanol), the title compound was obtained as brown viscous oil (85% yield). MS: m/e=198(M+H+).

reactant | 2-chloromethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester hydrochloride | Cl.COC(=O)C=1N(C(=NC1)CCl)C
reactant | dimethylamine | CNC | C2H7N
product | 2-Dimethylaminomethyl-3-methyl-3H-imidazole-4-carboxylic acid methyl ester | COC(=O)C=1N(C(=NC1)CN(C)C)C | C9H15N3O2
